US03968217
5-(3-Chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine.
A solution of 10,11-dihydro-5H-dibenz[b,f]azepine (19.5 gms.; 0.10 moles) in dry ether was added to a solution of 7.7 gms. (0.12 mole) of butyl lithium in hexane. The stirred solution was warmed for approximately one hour and then 31.0 gms. (0.20 mole) of bromopropylchloride in ether was added and the resulting mixture heated at reflux for 16 hours. Aliquot analysis showed no reaction had taken place. Approximately one liter of toluene was added to the reaction mixture, lower boiling solvents were removed by distillation and the reaction mixture heated at reflux with stirring for 12 hours. On working up the reaction mixture, there was obtained 7.0 gms. of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine which distilled at 150°-153°C. (0.03 mm.). An additional 6.0 gms. of impure material which contained approximately 15% of unreacted 10,11-dihydro-5H-dibenz[b,f]azepine was obtained which distilled at 140°-150°C. (0.03 mm.).

reactant | 10,11-dihydro-5H-dibenz[b,f]azepine | 0.10 moles, 19.5 gms | C1=CC=CC=2NC3=C(CCC21)C=CC=C3 | C14H13N
reactant | butyl lithium | 0.12 mole | C(CCC)[Li]
reactant | bromopropylchloride | 0.20 mole | BrCCCCl | C3H6BrCl
reactant | toluene | one liter | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 5-(3-Chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
